US07115615B2
7-[3-(4-cyanomethylpiperazin-1-yl)propoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline
Using an analogous procedure to that described in Example 12, 6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-piperazin-1-ylpropoxy)quinazoline was reacted with 2-chloroacetonitrile to give the title compound as a solid; NMR Spectrum: (DMSOd6) 2.1 (m, 2H), 2.45–2.7 (m, 11H), 3.5 (s, 2H), 4.0 (s, 3H), 4.25 (t, 2H), 6.0 (s, 2H), 6.7 (d, 1H), 6.9 (t, 1H), 7.0 (m, 2H), 7.75 (d, 1H), 8.7 (s, 1H); Mass Spectrum: M+H+ 477.

reactant | 6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-piperazin-1-ylpropoxy)quinazoline | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCNCC1)NC1=C2C(=CC=C1)OCO2 | C23H27N5O4
reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
product | 7-[3-(4-cyanomethylpiperazin-1-yl)propoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline | C(#N)CN1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C25H28N6O4
